US04824958
Methyl 3,4-dihydroxy-5-methyl-2-thiophenecarboxylate.
A mixture of dimethyl α-methyl-thiodiglycolate (Solladie-Cavallo, Bull. Soc. Chim. Fr., 437 (1968)) (10.2 g, 53 mmoles) and dimethyl oxalate (9.4 g, 79 mmoles) in methanol (25 mL) is added slowly to a solution of sodium (3.8 g, 165 mmoles) in methanol (35 mL) under argon and maintained at 10°-15° C. with an ice bath. After the addition, the mixture is slowly heated to reflux for 1 hour, then cooled and concentrated under reduced pressure. The precipitate is filtered off, rinsed with ether, air dried, dissolved in water and acidified with 4N hydrochloric acid. The precipitate is filtered off, rinsed with water and dried to afford the product (6.8 g); mp 116°-117° C.

reactant | dimethyl α-methyl-thiodiglycolate | 53 mmoles, 10.2 g | CC(C(=O)OC)(O)SC(C(=O)OC)O | C7H12O6S
reactant | dimethyl oxalate | 79 mmoles, 9.4 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sodium | 165 mmoles, 3.8 g | [Na] | Na
solvent | methanol | 25 mL | CO | CH4O
solvent | methanol | 35 mL | CO | CH4O
product | Methyl 3,4-dihydroxy-5-methyl-2-thiophenecarboxylate | 6.8 g | OC1=C(SC(=C1O)C)C(=O)OC | C7H8O4S
